US07943560B2
Preparation of 9-Oxa-bicyclo[15.1.0]octadecan-8-one
To a dry 500 ml multi-neck round bottom flask fitted with an air stirrer, nitrogen inlet condenser and an addition funnel 8 g of ZnCu, 26 g of CH2I2, 100 ml of Et2O and 2 crystals of 12, were added and stirred. 12 g of oxacycloheptadec-8-en-2-one were added to the mixture and the mixture was heated to reflux. In 4 hours, first sample was taken at 35° C. The mixture was left to age overnight. Next morning, the mixture was quenched with saturated NH4Cl, aqueous layer separated and the organic layer washed with NaHCO3. The organic layer was then dried over anhydrous MgSO4. The gas chromatography test indicated that 8.1% of the starting alkene lactone converted to the cyclopropanated lactone.

reactant | CH2I2 | 26 g | C(I)I | CH2I2
reactant | oxacycloheptadec-8-en-2-one | 12 g | O1C(CCCCCC=CCCCCCCCC1)=O | C16H28O2
solvent | Et2O | 100 ml | CCOCC | C4H10O
product | 9-Oxa-bicyclo[15.1.0]octadecan-8-one | C12CCCCCCC(OCCCCCCCC2C1)=O | C17H30O2
